US05446161
A solution of 0.422 g of N -[2(R)-hydroxy-4-phenyl-3(S)-[[N-(2-quinolylcarbonyl)-L-asparaginyl]amino]butyl]-N1 -tert.butyl-L-prolinamide and 142 mg of 3-chloroperbenzoic acid in 10 ml of dichloromethane was stirred at 20° C. for 1 hour. The solvent was then removed by evaporation and the residue was chromatographed on silica gel using dichloromethane/methanol (9:1) for theelution to give 289 mg of N1 -tert.butyl-N2 -[2(R)-hydroxy-4-phenyl-3(S)-[[N-(2-quinolylcarbonyl)-L-asparaginyl]amino]-butyl]L-prolinamide N2 -oxide as a white solid; MS: m/e 619 [M+H]+.

reactant | N -[2(R)-hydroxy-4-phenyl-3(S)-[[N-(2-quinolylcarbonyl)-L-asparaginyl]amino]butyl]-N1 -tert.butyl-L-prolinamide | 0.422 g | O[C@H](CNC([C@H]1N(CCC1)C(C)(C)C)=O)[C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)C1=NC2=CC=CC=C2C=C1)CC(N)=O)=O | C33H42N6O5
reactant | 3-chloroperbenzoic acid | 142 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N1 -tert.butyl-N2 -[2(R)-hydroxy-4-phenyl-3(S)-[[N-(2-quinolylcarbonyl)-L-asparaginyl]amino]-butyl]L-prolinamide N2 -oxide | 289 mg | C(C)(C)(C)N1[C@H](C(=O)[NH+](C[C@H]([C@H](CC2=CC=CC=C2)NC([C@@H](NC(=O)C2=NC3=CC=CC=C3C=C2)CC(N)=O)=O)O)[O-])CCC1 | C33H42N6O6
